US04654343
N-[3-(6-Chloro-3-pyridazinyl)phenyl]propionamide
A solution of 33.0 g of 3-(6-chloro-3-pyridazinyl)benzenamine, 25.0 g propionic anhydride and 20.7 diisopropylethylamine in 750 ml of dichloromethane was stirred for 3 hrs. The mixture was then treated as described in Example 61 to give 37.3 g of tan solids, mp 184°-187° C.

reactant | 3-(6-chloro-3-pyridazinyl)benzenamine | 33.0 g | ClC1=CC=C(N=N1)C=1C=C(C=CC1)N | C10H8ClN3
reactant | propionic anhydride | 25.0 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 750 ml | ClCCl | CH2Cl2
product | N-[3-(6-Chloro-3-pyridazinyl)phenyl]propionamide | 37.3 g | ClC1=CC=C(N=N1)C=1C=C(C=CC1)NC(CC)=O | C13H12ClN3O
